US04518602
Ethyl 6-acetoxy-2-phenylhexanoate (22 g) was dissolved in 47% aqueous hydrobromic acid (100 ml), and the solution was heated at 130° C. for 4 hours. After the completion of the reaction, the solution was cooled, and aqueous sodium chloride (300 ml) was added, followed by extraction of the product with isopropyl ether. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was chromatographed on a column of silica gel, and development was effected with isopropyl ether to give 6-bromo-2-phenylhexanoic acid (16 g, 75%).

reactant | Ethyl 6-acetoxy-2-phenylhexanoate | 22 g | C(C)(=O)OCCCCC(C(=O)OCC)C1=CC=CC=C1 | C16H22O4
reactant | sodium chloride | 300 ml | [Cl-].[Na+]
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 6-bromo-2-phenylhexanoic acid | 16 g, 75% | BrCCCCC(C(=O)O)C1=CC=CC=C1 | C12H15BrO2
